US06953790B2
Step B. (3R,6S)-3-Amino-6-(2,3-difluorophenyl)-1-(pyridin-2-ylmethyl)azepan-2-on
Trifluoroacetic acid (3 mL) was added to a solution of tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-2-oxo-1-(pyridin-2-ylmethyl)azepan-3-ylcarbamate (202 mg, 0.468 mmol) in dichloromethane (4 mL). After 18 h, the solution was concentrated. Saturated aqueous sodium bicarbonate solution was added and the mixture was extracted with dichloromethane (3×). The combined organic extracts were washed with saturated brine, dried over magnesium sulfate, filtered and concentrated. MS 332.2 (M+1).

reactant | Trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-2-oxo-1-(pyridin-2-ylmethyl)azepan-3-ylcarbamate | 0.468 mmol, 202 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)CC1=NC=CC=C1)=O)NC(OC(C)(C)C)=O | C23H27F2N3O3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (3R,6S)-3-Amino-6-(2,3-difluorophenyl)-1-(pyridin-2-ylmethyl)azepan-2-on | N[C@H]1C(N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)CC1=NC=CC=C1)=O | C18H19F2N3O
